US08008340B2
[3-(2-Amino-phenylsulfanyl)-1H-indol-2-yl]-pyrrolidin-1-yl-methanone Hydrochloride (Iaa)
Stir [3-(2-amino-phenylsulfanyl)-1H-indol-2-yl]-pyrrolidin-1-yl-methanone (Iz, 60 mg) in Et2O (5 mL) with 1N HCl (1 mL) and collect the precipitate by filtration. Wash the filter cake with Et2O and dry to afford the title compound Iaa (48 mg) as a white solid, mp 154-155° C.; m/z=338 (M+1)

reactant | [3-(2-amino-phenylsulfanyl)-1H-indol-2-yl]-pyrrolidin-1-yl-methanone | 60 mg | NC1=C(C=CC=C1)SC1=C(NC2=CC=CC=C12)C(=O)N1CCCC1 | C19H19N3OS
reactant | HCl | 1N, 1 mL | Cl | ClH
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | [3-(2-Amino-phenylsulfanyl)-1H-indol-2-yl]-pyrrolidin-1-yl-methanone Hydrochloride | Cl.NC1=C(C=CC=C1)SC1=C(NC2=CC=CC=C12)C(=O)N1CCCC1 | InChI=1S/C19H19N3OS.ClH/c20-14-8-2-4-10-16(14)24-18-13-7-1-3-9-15(13)21-17(18)19(23)22-11-5-6-12-22;/h1-4,7-10,21H,5-6,11-12,20H2;1H
